US07417169B2
Trifluoromethanesulfonic anhydride (0.221 mL) was added to an ice-cooled mixture of benzyl 2-benzyloxy-4-hydroxybenzoate (0.400 g) and pyridine (0.111 mL) in dichloromethane (1.5 mL) with stirring, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into a mixture of 1 mol/L hydrochloric acid and ethyl acetate, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium-pressure silica gel column chromatography (eluent: n-hexane/ethyl acetate=6/1) to afford benzyl 2-benzyloxy-4-trifluoromethanesulfonyloxybenzoate (0.555 g).

reactant | Trifluoromethanesulfonic anhydride | 0.221 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | benzyl 2-benzyloxy-4-hydroxybenzoate | 0.400 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)O | C21H18O4
reactant | pyridine | 0.111 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 2-benzyloxy-4-trifluoromethanesulfonyloxybenzoate | 0.555 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)OS(=O)(=O)C(F)(F)F | C22H17F3O6S
